US06787547B2
2-Chloro-4-methyl phenylhydrazine hydrochloride.
A suspension of 2-chloro-4-methyl aniline (10.1 mL, 11.63 g, 82.1 mmol) in 64 mL water and 60 mL 12 N HCl was cooled to −5° C. (internal temperature) and stirred with a mechanical stirrer. A solution of sodium nitrite (8.26 g, 119.7 mmol) in 56 mL water was added over 30 minutes. The solution became more clear but some solid remained. The mixture was stirred at −5° C. for 20 minutes and then cooled to −10° C. A solution of tin(II) chloride dihydrate (53.60 g, 237.6 mmol) in 36 mL 12 N HCl was added dropwise over 30 minutes while maintaining an internal temperature of −5 to −10° C. The resulting pinkish-brown mixture was stirred at −5 to −10° C. for 2 hours and then filtered cold through a pre-chilled fritted glass funnel. The collected solids were washed with cold 1% ethanol in ether (100 mL) followed by cold ether (500 mL) and air dried for 30 minutes. After drying in vacuo, the desired product was obtained as a very pale yellow crystalline solid (7.76 g, 49%). 1H NMR δ (300 MHz, CDCl3) δ 10.09 (bs, 2 H), 7.89 (s, 1 H), 7.25 (d, 1 H, Jm=1.2 Hz), 7.13 (dd, 1 H, Jo=8.4 Hz, Jm=1.2 Hz), 7.02 (d, 1 H, Jo=8.4 Hz), 2.24 (s, 3 H); MS (CI) m/z 157/159.

reactant | 2-chloro-4-methyl aniline | 82.1 mmol, 10.1 mL, 11.63 g | ClC1=C(N)C=CC(=C1)C | C7H8ClN
reactant | sodium nitrite | 119.7 mmol, 8.26 g | N(=O)[O-].[Na+]
reactant | tin(II) chloride dihydrate | 237.6 mmol, 53.60 g | O.O.[Sn](Cl)Cl
solvent | water | 64 mL | O | H2O
solvent | HCl | 12 N, 60 mL | Cl | ClH
solvent | water | 56 mL | O | H2O
solvent | HCl | 12 N, 36 mL | Cl | ClH
product | 2-Chloro-4-methyl phenylhydrazine hydrochloride | Cl.ClC1=C(C=CC(=C1)C)NN | InChI=1S/C7H9ClN2.ClH/c1-5-2-3-7(10-9)6(8)4-5;/h2-4,10H,9H2,1H3;1H
